US06344449B1
e) 1,3-dihydro-3-(4-piperidinyl)-2(2H)-imidazo[4,5-c]quinolone
Prepared analogously to Example A3f) from 1,3-dihydro-3-[1-(phenylmethyl)-4-piperidinyl]-2(2H)-imidazo[4,5-c]quinolone by hydrogenolysis in the presence of palladium/charcoal in a yield of 98.5% of theory. Colourless crystals, Rf=0.63 (FM1).

reactant | 1,3-dihydro-3-[1-(phenylmethyl)-4-piperidinyl]-2(2H)-imidazo[4,5-c]quinolone | C1(=CC=CC=C1)CN1CCC(CC1)N1C(NC2=C1C=NC=1C=CC=CC21)=O | C22H22N4O
catalyst | palladium/charcoal | [Pd] | Pd
product | 1,3-dihydro-3-(4-piperidinyl)-2(2H)-imidazo[4,5-c]quinolone | yield of 98.5% | N1CCC(CC1)N1C(NC2=C1C=NC=1C=CC=CC21)=O | C15H16N4O
